### PR TITLE
[Merged by Bors] - feat: basic theory of chains of roots / weights of Lie algebras / modules

### PR DESCRIPTION
**Pull request by ocfnash**
---

- [x] depends on: #10584

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Lie/Submodule.lean [hunk 1]
```diff
@@ -66,6 +66,9 @@ instance : AddSubgroupClass (LieSubmodule R L M) M where
   zero_mem N := N.zero_mem'
   neg_mem {N} x hx := show -x ∈ N.toSubmodule from neg_mem hx
 
+instance instSmulMemClass : SMulMemClass (LieSubmodule R L M) R M where
+  smul_mem {s} c _ h := SubMulAction.smul_mem' s.toSubMulAction c h
```
Comment (ericrbg) [inline Mathlib/Algebra/Lie/Submodule.lean:70]: hopefully

```suggestion
  smul_mem {s} c _ h := s.smul_mem'  c h
```

or if not

```suggestion
  smul_mem {s} c _ h := s.toSubMulAction.smul_mem' c h
```

but why do we need to do this if we already have a SubMulAction? shouldn't this be getting picked up automatically?

**Review by ericrbg — COMMENTED** [review]
Will have a look at the rest tomorrow - but maybe it's cleaner to do the bracket refactor in another PR?

File: Mathlib/Algebra/Lie/Submodule.lean (hunk 1 above)
Comment (ocfnash) [reply Mathlib/Algebra/Lie/Submodule.lean]: We need it so that the lemma `SetLike.mk_smul_mk` applies to terms including terms of type `LieSubmodule R L M`.

It's true that we have projections `LieSubmodule.toSubmodule` and `Submodule.toSubMulAction` but we still need a `SMulMemClass` instance indexed on `LieSubmodule R L M` because though these projections exist, it is the type that is used to look up the typeclass instances.

Note that we have the corresponding instance for `Submodule` [here](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Module/Submodule/Basic.html#Submodule.smulMemClass).

I do however agree that we _shouldn't_ have to write all the boilerplate nonsense.

Comment (ericrbg) [reply Mathlib/Algebra/Lie/Submodule.lean]: Does `deriving` deal with this? If not maybe we should write a handler for it.

Comment (ocfnash) [reply Mathlib/Algebra/Lie/Submodule.lean]: Yes, I believe this is a job for `deriving` and I think the handler is missing.

File: Mathlib/Algebra/Lie/Weights/Chain.lean [hunk 2]
```diff
@@ -0,0 +1,130 @@
...
+  induction' hy using LieSubmodule.iSup_induction' with k z hz z₁ z₂ _ _ hz₁ hz₂
+  · obtain ⟨k, hk⟩ := k
+    suffices weightSpace M ((k + 1) • α + χ) ≤ weightSpaceChain M α χ p q by
+      apply this
+      simpa using (rootSpaceWeightSpaceProduct R L H M α (k • α + χ) ((k + 1) • α + χ)
+        (by rw [add_smul]; abel) (⟨x, hx⟩ ⊗ₜ ⟨z, hz⟩)).property
+    rw [weightSpaceChain]
+    rcases eq_or_ne (k + 1) q with rfl | hk'; · simp only [hq, bot_le]
+    replace hk' : k + 1 ∈ Ioo p q := ⟨by linarith [hk.1], lt_of_le_of_ne hk.2 hk'⟩
+    exact le_biSup (fun k ↦ weightSpace M (k • α + χ)) hk'
```
Comment (ericrbg) [inline Mathlib/Algebra/Lie/Weights/Chain.lean:92]: this should probably be its own lemma

File: Mathlib/Algebra/Lie/Weights/Chain.lean [hunk 3]
```diff
@@ -0,0 +1,130 @@
...
+
+lemma trace_toEndomorphism_weightSpaceChain_eq_zero [IsNoetherian R L] [H.IsCartanSubalgebra]
+    (hp : weightSpace M (p • α + χ) = ⊥)
+    (hq : weightSpace M (q • α + χ) = ⊥)
+    {x : H} (hx : x ∈ (rootSpaceProductNegSelf α).range) :
+    LinearMap.trace R _ (toEndomorphism R H (weightSpaceChain M α χ p q) x) = 0 := by
+  obtain ⟨t, rfl⟩ := hx
+  induction' t using TensorProduct.induction_on with y z _ _ h₁ h₂
+  · simp
+  · let f : Module.End R (weightSpaceChain M α χ p q) :=
```
Comment (ericrbg) [inline Mathlib/Algebra/Lie/Weights/Chain.lean:114]: is this explciit characterisation likely to be useful outside the proof? I guess probably not as we're only dealing with pure elements, right?

**Review by ericrbg — COMMENTED** [review]
otherwise looking good

File: Mathlib/Algebra/Lie/Weights/Chain.lean (hunk 2 above)
Comment (ocfnash) [reply Mathlib/Algebra/Lie/Weights/Chain.lean:92]: I don't think it should since this is a weaker version of what we're proving.

However your remark has inspired me to add the result `LieModule.weightSpace_le_weightSpaceChain` and using that I can emphasise my point:
```lean
example [LieAlgebra.IsNilpotent R H] {k : ℤ} (hk : k ∈ Ioo p q)
    (hq : weightSpace M (q • α + χ) = ⊥)
    {x : L} (hx : x ∈ rootSpace H α)
    {y : M} (hy : y ∈ weightSpace M (k • α + χ)) :
    ⁅x, y⁆ ∈ weightSpaceChain M α χ p q :=
  lie_mem_weightSpaceChain_of_weightSpace_eq_bot_right M α χ p q hq hx <|
    weightSpace_le_weightSpaceChain M α χ p q hk hy
```

File: Mathlib/Algebra/Lie/Weights/Chain.lean (hunk 3 above)
Comment (ocfnash) [reply Mathlib/Algebra/Lie/Weights/Chain.lean:118]: Yes, I think it unlikely these will be useful outside.

File: Mathlib/Algebra/Lie/Weights/Chain.lean (hunk 2 above)
Comment (ericrbg) [reply Mathlib/Algebra/Lie/Weights/Chain.lean:96]: Sorry I don't think I was clear, I did actually mean `weightSpace_le_weightSpaceChain` - I know it's absolutely clear how `weightSpaceChain` is defined to anyone using it, but I still think we should have the API lemmas instead of forcing people to look though the `biSup`.

Comment (ocfnash) [reply Mathlib/Algebra/Lie/Weights/Chain.lean:96]: OK great, so all is well now?

**Comment by ericrbg** [comment]
seems it doesn't

maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge

**Comment by ocfnash** [comment]
> This PR was included in a batch that was canceled, it will be automatically retried

Despite this promise, I see bors idling so I will manually send it again.

bors merge
